US05840758
Step 2: Preparation of 2-[(2,6-dichloro-3-methylphenyl)amino]acetophenone.
The desired compound was prepared by oxidation of 1-{2-[(2,6-dichloro-3-methylphenyl)amino]phenyl}ethanol, prepared as in step 1, with Jones reagent.

reactant | 1-{2-[(2,6-dichloro-3-methylphenyl)amino]phenyl}ethanol | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C(C)O | C15H15Cl2NO
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
product | 2-[(2,6-dichloro-3-methylphenyl)amino]acetophenone | ClC1=C(C(=CC=C1C)Cl)NCC(=O)C1=CC=CC=C1 | C15H13Cl2NO
